US04067720
77 g of allyl chloride and 195 g of potassium N-cyanodithioimidocarbonate were condensed and the reaction product was oxidized with 100 ml of 30% hydrogen peroxide to obtain 63 g of 3-hydroxy-5-allylthio-1,2,4-thiadiazole melting at 84° C.

reactant | allyl chloride | 77 g | C(C=C)Cl | C3H5Cl
reactant | potassium N-cyanodithioimidocarbonate | 195 g | C(#N)N=C([S-])[S-].[K+].[K+]
reactant | hydrogen peroxide | 100 ml | OO | H2O2
product | 3-hydroxy-5-allylthio-1,2,4-thiadiazole | 63 g | OC1=NSC(=N1)SCC=C | C5H6N2OS2
